US07884207B2
A mixture of N-[3-(1-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)propyl]-3-nitroquinolin-4-amine (1.40 g, 3.16 mmol) and 5% platinum on carbon (0.14 g) in ethyl acetate (15 mL) was hydrogenated at 30 psi (2.1×105 Pa) for 2 h on a Parr apparatus. The reaction mixture was filtered through CELITE filter agent, which was rinsed with ethyl acetate afterwards, and the filtrate was concentrated to give N4-[3-(1-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)propyl]quinoline-3,4-diamine as an orange colored gum. The gum was dissolved in dichloromethane (15 mL) and the solution was cooled to 0° C. Ethoxyacetyl chloride (0.350 mL, 3.48 mmol) was added dropwise over 2 min. The reaction was allowed to stir at 0° C. for 1 h, then was concentrated in vacuo to yield N-(4-{[3-(1-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)propyl]amino}quinolin-3-yl)-2-ethoxyacetamide hydrochloride as a yellow solid. The yellow solid was dissolved in ethanol (12 mL) and 2 M NaOH (2.4 mL, 4.8 mmol) was added. The reaction was heated at 60° C. for 1 h. The reaction was cooled to rt and the solvent was removed in vacuo. The residue was partitioned between dichloromethane (50 mL) and water (30 mL), and 1 M HCl was added to the mixture until the pH=7-8. The aqueous layer was extracted with dichloromethane (2×15 mL). The combined organic layers were dried over MgSO4, filtered, and concentrated to afford 1-[3-(1-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)propyl]-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinoline as a brown oil (1.57 g, 96%) that contained some dichloromethane.

reactant | N-[3-(1-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)propyl]-3-nitroquinolin-4-amine | 3.16 mmol, 1.40 g | [Si](C)(C)(C(C)(C)C)OC1(CCCCC1)CCCNC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-] | C24H37N3O3Si
catalyst | platinum on carbon | 0.14 g | [Pt] | Pt
solvent | ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
product | N4-[3-(1-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)propyl]quinoline-3,4-diamine | [Si](C)(C)(C(C)(C)C)OC1(CCCCC1)CCCNC1=C(C=NC2=CC=CC=C12)N | C24H39N3OSi
